US08207177B2
Step h: (1S,2S,4R)-2-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl acetate
(1S,2S,4R)-4-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]-pyrimidin-7-yl}-2-(hydroxymethyl)cyclopentanol (3.00 g, 8.23 mmol), 1H-imidazole (1.68 g, 24.7 mmol) and 4-(dimethylamino)-pyridine (100 mg, 0.818 mmol) were dissolved in DMF (90.0 mL) under an atmosphere of argon and the solution was cooled to 0° C. tert-Butyldimethylsilyl chloride (1.24 g, 8.23 mmol) was added and the mixture was stirred at rt for 2 h. LC/MS indicated complete conversion. The reaction was quenched with saturated aqueous sodium chloride solution (30 mL), extracted with EtOAc (3×50 mL), dried with MgSO4, filtered, and concentrated in vacuo. The remaining DMF was removed under high vacuum. Crude (1S,2S,4R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentanol (3.94 g, 8.23 mmol) and 4-(dimethylamino)-pyridine (100. mg, 0.818 mol) were dissolved in pyridine (70.0 mL) and acetic anhydride (4.66 mL, 49.4 mmol) was added. The mixture was stirred at rt overnight. The solvent was evaporated and the remaining pyridine was removed under high vacuum. The residue was purified via silica gel chromatography eluting with a gradient of 10 to 66% EtOAc in hexanes to afford the title compound (3.66 g, 86%). LC/MS: Rt=2.51 min, ES+ 521 (AA standard).

reactant | (1S,2S,4R)-4-{4-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]-pyrimidin-7-yl}-2-(hydroxymethyl)cyclopentanol | 8.23 mmol, 3.00 g | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)N(C=C2)[C@@H]2C[C@H]([C@H](C2)O)CO | C21H24N4O2
reactant | 1H-imidazole | 24.7 mmol, 1.68 g | N1C=NC=C1 | C3H4N2
reactant | tert-Butyldimethylsilyl chloride | 8.23 mmol, 1.24 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | (1S,2S,4R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentanol | 8.23 mmol, 3.94 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1[C@H](C[C@@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)O | C27H38N4O2Si
reactant | acetic anhydride | 49.4 mmol, 4.66 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-(dimethylamino)-pyridine | 0.818 mmol, 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 90.0 mL | CN(C)C=O | C3H7NO
catalyst | 4-(dimethylamino)-pyridine | 0.818 mol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 70.0 mL | N1=CC=CC=C1 | C5H5N
product | (1S,2S,4R)-2-({[tert-Butyl(dimethyl)silyl]oxy}methyl)-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl acetate | 3.66 g, 86% | C(C)(=O)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)CO[Si](C)(C)C(C)(C)C | C29H40N4O3Si
